US06831080B2
Preparation of 3,4-dihydro-1H-isoquinoline-2-carboxylic acid methyl ester
A solution of methyl chloroformate (15.45 mL, 200 mmol) in CH2Cl2 (50 mL) was added to a solution of 1,2,3,4-tetrahydroisoquinoline (13.3 g, 100 mmol) and triethylamine (57 mL, 400 mmol) in CH2Cl2 (200 mL) at 0° C. The reaction mixture was stirred for 3 hours then was quenched with water. The organic layer was separated and washed with water (2×50 mL). The organic layer was then dried over anhydrous magnesium sulfate, filtered and the resultant filtrate was concentrated in vacuo to provide the title compound (19.1 g). The crude material thus obtained was used without further purification.

reactant | methyl chloroformate | 200 mmol, 15.45 mL | ClC(=O)OC | C2H3ClO2
reactant | 1,2,3,4-tetrahydroisoquinoline | 100 mmol, 13.3 g | C1NCCC2=CC=CC=C12 | C9H11N
reactant | triethylamine | 400 mmol, 57 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 3,4-dihydro-1H-isoquinoline-2-carboxylic acid methyl ester | 19.1 g | COC(=O)N1CC2=CC=CC=C2CC1 | C11H13NO2
